### PR TITLE
feat: add List/Array/Vector.ofFnM

### PR DESCRIPTION
**Pull request by kim-em**
This PR adds the `List/Array/Vector.ofFnM`, the monadic analogues of `ofFn`, along with basic theory.

At the same time we pave some potholes in nearby API.

### CODE REVIEW

File: src/Init/Data/Array/Lemmas.lean [hunk 1]
```diff
@@ -3362,6 +3384,24 @@ rather than `(arr.push a).size` as the argument.
...
+  induction l <;> simp [*]
+
+@[simp, grind] theorem _root_.List.foldl_push_eq_append {l : List α} {f : α → β} {xs : Array β} :
+    l.foldl (fun xs x => xs.push (f x)) xs = xs ++ (l.map f).toArray := by
+  induction l generalizing xs <;> simp [*]
+
+/-- Variant of `List.foldl_push_eq_append` specialized to `f = id`. -/
+@[simp, grind] theorem _root_.List.foldl_push_eq_append' {l : List α} {xs : Array α} :
+    l.foldl (fun xs x => xs.push x) xs = xs ++ l.toArray := by
+  induction l <;> simp [*]
```
Comment (Rob23oba) [inline src/Init/Data/Array/Lemmas.lean:3403]: Just noting that these are already in `Init/Data/List/ToArray` in the form of `List.foldl_push` and `List.foldlr_push`. I also thought of generalizing those, maybe put it where the others are though?

File: src/Init/Data/Array/OfFn.lean [hunk 2]
```diff
@@ -17,8 +18,42 @@ import Init.Data.List.OfFn
...
+
+theorem ofFnM_add {n m} [Monad m] [LawfulMonad m] {f : Fin (n + k) → m α} :
+    ofFnM f = (do
+      let as ← ofFnM fun i : Fin n => f (i.castLE (Nat.le_add_right n k))
+      let bs ← ofFnM fun i : Fin k => f (i.natAdd n)
+      pure (as ++ bs)) := by
+  induction k with
+  | zero => simp
+  | succ k ih => simp [ofFnM_succ_last, ih]
+
```
Comment (Rob23oba) [inline src/Init/Data/Array/OfFn.lean:50]: Perhaps add `ofFnM_pure` to relate it to `ofFn`.

File: src/Init/Data/List/OfFn.lean [hunk 3]
```diff
@@ -27,6 +27,13 @@ Examples:
 -/
 def ofFn {n} (f : Fin n → α) : List α := Fin.foldr n (f · :: ·) []
 
+/--
+Creates a list wrapped in a monad by applying the monadic function `f : Fin n → m α`
+to each potential index in order, starting at `0`.
+-/
+def ofFnM {n} [Monad m] (f : Fin n → m α) : m (List α) :=
+  Array.toList <$> Fin.foldlM n (fun xs i => xs.push <$> f i) (Array.mkEmpty n)
```
Comment (Rob23oba) [inline src/Init/Data/List/OfFn.lean:35]: Not sure if that's better but maybe `List.reverse <$> Fin.foldlM n (fun xs i => f i :: xs) []`? I think that would at least avoid the array allocation (and the lemmas could be put here).

File: src/Init/Data/Array/Basic.lean [hunk 4]
```diff
@@ -112,6 +112,8 @@ theorem mem_def {a : α} {as : Array α} : a ∈ as ↔ a ∈ as.toList :=
   rw [Array.mem_def, ← getElem_toList]
   apply List.getElem_mem
 
+@[simp, grind] theorem mkEmpty_eq_empty {n : Nat} : (mkEmpty n : Array α) = #[] := rfl
```
Comment (Rob23oba) [inline src/Init/Data/Array/Basic.lean:115]: `mkEmpty_eq` already exists but it's deprecated and not a `simp` lemma. Still, I don't see much of a reason to add this here, if we needed to we could add `mkEmpty_eq` to `simp`.

File: src/Init/Data/List/OfFn.lean (hunk 3 above)
Comment (kim-em) [reply src/Init/Data/List/OfFn.lean:35]: Unclear to me that's an improvement.

File: src/Init/Data/Array/OfFn.lean [hunk 5]
```diff
@@ -53,4 +99,52 @@ theorem mem_ofFn {n} {f : Fin n → α} {a : α} : a ∈ ofFn f ↔ ∃ i, f i =
   · rintro ⟨i, rfl⟩
     apply mem_of_getElem (i := i) <;> simp
 
+/-! ### ofFnM -/
+
+/-- Construct (in a monadic context) an array by applying a monadic function to each index. -/
+def ofFnM {n} [Monad m] (f : Fin n → m α) : m (Array α) :=
+  Fin.foldlM n (fun xs i => xs.push <$> f i) (Array.mkEmpty n)
```
Comment (Rob23oba) [inline src/Init/Data/Array/OfFn.lean:106]: Rather use `Array.emptyWithCapacity`, I mean, `Array.mkEmpty` will be deprecated in the future.

File: src/Init/Data/List/OfFn.lean (hunk 3 above)
Comment (kim-em) [reply src/Init/Data/List/OfFn.lean]: Thanks, this is indeed a better definition. Updated.

File: src/Init/Data/Vector/OfFn.lean [hunk 6]
```diff
@@ -40,4 +40,101 @@ theorem back_ofFn {n} [NeZero n] {f : Fin n → α} :
...
+  | succ k ih =>
+    simp only [ofFnM_succ, Nat.add_eq, ih, Fin.castSucc_castLE, Fin.castSucc_natAdd, bind_pure_comp,
+      bind_assoc, bind_map_left, Fin.natAdd_last, map_bind, Functor.map_map]
+    congr 1
+    funext xs
+    congr 1
+    funext ys
+    congr 1
+    funext x
+    simp
```
Comment (Rob23oba) [inline src/Init/Data/Vector/OfFn.lean:125]: A bit shorter:
```suggestion
  induction k with
  | zero => simp
  | succ k ih => simp [ofFnM_succ, ih, ← push_append]
```

File: src/Init/Data/Array/OfFn.lean (hunk 2 above)
Comment (kim-em) [reply src/Init/Data/Array/OfFn.lean]: Done.

File: src/Init/Data/Fin/Fold.lean [hunk 7]
```diff
@@ -238,4 +333,11 @@ theorem foldr_rev (f : α → Fin n → α) (x) :
   | zero => simp
   | succ n ih => rw [foldl_succ_last, foldr_succ, ← ih]; simp [rev_succ]
 
+-- This is not marked `@[simp]` as it would match on every occurrence of `foldrM`.
+theorem foldrM_pure [Monad m] [LawfulMonad m] {n} {f : Fin n → α → α} :
```
Comment (Rob23oba) [inline src/Init/Data/Fin/Fold.lean:337]: You're right I guess that's a problem of a lot of other lemmas too though, e.g. `bind_pure_comp` matches *every* `>>=`. I wonder if we could perhaps add support for lambdas in discr trees...

File: src/Init/Data/List/OfFn.lean [hunk 8]
```diff
@@ -92,4 +114,59 @@ theorem getLast_ofFn {n} {f : Fin n → α} (h : ofFn f ≠ []) :
...
+theorem ofFnM_pure [Monad m] [LawfulMonad m] {n} {f : Fin n → α} :
+    ofFnM (pure ∘ f) = (pure (ofFn f) : m (List α)) := by
+  simp [ofFnM, Fin.foldlM_pure, Fin.foldl_cons_eq_append]
+
+-- Variant of `ofFnM_pure` using a lambda.
+-- This is not marked a `@[simp]` as it would match on every occurrence of `ofFnM`.
+theorem ofFnM_pure' [Monad m] [LawfulMonad m] {n} {f : Fin n → α} :
+    ofFnM (fun i => pure (f i)) = (pure (ofFn f) : m (List α)) :=
+  ofFnM_pure
+
```
Comment (eric-wieser) [inline src/Init/Data/List/OfFn.lean:171]: Could you add the lemma that `Id.run (ofFnM f) = ofFn (fun i => (f i).run)`?

File: src/Init/Data/Vector/Basic.lean [hunk 9]
```diff
@@ -307,6 +307,8 @@ abbrev zipWithIndex := @zipIdx
 @[inline] def ofFn (f : Fin n → α) : Vector α n :=
   ⟨Array.ofFn f, by simp⟩
 
+-- See also `Vector.ofFnM` defined in `Init.Data.Vector.OfFn`.
```
Comment (eric-wieser) [inline src/Init/Data/Vector/Basic.lean:310]:
```suggestion
/-! See also `Vector.ofFnM` defined in `Init.Data.Vector.OfFn`. -/
```
for the benefit of doc-gen

File: src/Init/Data/List/OfFn.lean [hunk 10]
```diff
@@ -92,4 +114,59 @@ theorem getLast_ofFn {n} {f : Fin n → α} (h : ofFn f ≠ []) :
     (ofFn f).getLast h = f ⟨n - 1, Nat.sub_one_lt (mt ofFn_eq_nil_iff.2 h)⟩ := by
   simp [getLast_eq_getElem, length_ofFn, List.getElem_ofFn]
 
+/-- `ofFnM` on an empty domain is the empty list. -/
+@[simp]
+theorem ofFnM_zero [Monad m] [LawfulMonad m] {f : Fin 0 → m α} : ofFnM f = pure [] := by
+  simp [ofFnM]
+
+-- See `Init.Data.List.FinRange` for the `ofFnM_succ` variant.
```
Comment (eric-wieser) [inline src/Init/Data/List/OfFn.lean:122]:
```suggestion
/-! See `Init.Data.List.FinRange` for the `ofFnM_succ` variant. -/
```

File: src/Init/Data/Array/OfFn.lean [hunk 11]
```diff
@@ -53,4 +68,64 @@ theorem mem_ofFn {n} {f : Fin n → α} {a : α} : a ∈ ofFn f ↔ ∃ i, f i =
...
+
+@[simp] theorem toList_ofFnM [Monad m] [LawfulMonad m] {f : Fin n → m α} :
+    toList <$> ofFnM f = List.ofFnM f := by
+  induction n with
+  | zero => simp
+  | succ n ih => simp [ofFnM_succ, List.ofFnM_succ_last, ← ih]
+
+@[simp]
+theorem ofFnM_pure [Monad m] [LawfulMonad m] {n} {f : Fin n → α} :
+    ofFnM (pure ∘ f) = (pure (ofFn f) : m (Array α)) := by
```
Comment (Rob23oba) [inline src/Init/Data/Array/OfFn.lean:121]: `ofFnM_pure_comp`? Then the theorem below could be `ofFnM_pure` (`'`s are not too nice)

File: src/Init/Data/List/OfFn.lean (hunk 8 above)
Comment (kim-em) [reply src/Init/Data/List/OfFn.lean:178]: Done.

File: src/Init/Data/Vector/OfFn.lean [hunk 12]
```diff
@@ -40,4 +41,122 @@ theorem back_ofFn {n} [NeZero n] {f : Fin n → α} :
...
+  apply Vector.map_toArray_inj.mp
+  simp
+
+-- Variant of `ofFnM_pure_comp` using a lambda.
+-- This is not marked a `@[simp]` as it would match on every occurrence of `ofFnM`.
+theorem ofFnM_pure [Monad m] [LawfulMonad m] {n} {f : Fin n → α} :
+    ofFnM (fun i => pure (f i)) = (pure (ofFn f) : m (Vector α n)) :=
+  ofFnM_pure_comp
+
+@[simp, grind =] theorem idRun_ofFnM {f : Fin n → Id α} :
```
Comment (eric-wieser) [inline src/Init/Data/Vector/OfFn.lean:155]: I think this can be proved directly with `ofFnM_pure`
